US06924374B2
4-(4-Chloro-3-trifluoromethyl-phenyl)-1-butyl-piperidine
Beginning with 4-(4-Chloro-3-trifluoromethyl-phenyl)-piperidine and 1-butylbromide, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV) 319 (M+, 6), 278 (31), 277 (19), 276 (bp), 70 (30).

reactant | 4-(4-Chloro-3-trifluoromethyl-phenyl)-piperidine | ClC1=C(C=C(C=C1)C1CCNCC1)C(F)(F)F | C12H13ClF3N
reactant | 1-butylbromide | C(CCC)Br | C4H9Br
product | 4-(4-Chloro-3-trifluoromethyl-phenyl)-1-butyl-piperidine | ClC1=C(C=C(C=C1)C1CCN(CC1)CCCC)C(F)(F)F | C16H21ClF3N
